US06403626B1
3-Isobutyl-4-bromo-5-aminobenzimidazole.
To a solution of 3-isobutyl-5-aminobenzimidazole (1.5 g, 7.9 mmol) in 20 ml of AcOH was added solution of Br2 in AcOH until it produces a precipitation. The reaction mixture was concentrated in vacuo to provide a brown solid which was subjected to column chromatography (5% NH3 sat'd MeOH/CH2Cl2) to provide 1.0 g (3.7 mmol, 29%) of the product.

reactant | 3-isobutyl-5-aminobenzimidazole | 7.9 mmol, 1.5 g | C(C(C)C)N1C=NC2=C1C=C(C=C2)N | C11H15N3
reactant | Br2 | BrBr | Br2
reactant | NH3 | N | H3N
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | AcOH | 20 ml | CC(=O)O | C2H4O2
product | 3-Isobutyl-4-bromo-5-aminobenzimidazole | 3.7 mmol, 1.0 g, 29% | C(C(C)C)N1C=NC2=C1C(=C(C=C2)N)Br | C11H14BrN3
